US05705496
Preparation of N,N'-Dibenzylethylene diamine-7-[(hydroxyphenylacetyl)amino-8-oxo-3-[[[1- (sulfomethyl)-1H-tetrazol-5-yl]thio]methyl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate
To a stirred solution of cefonicid (5.76 g, 9.8 mmol) in water (6.3% w/w), at pH 5-6 and ambient temperature, methanol (50 ml) was added, followed by a suspension of N,N-dibenzylethylene diamine diacetate (8.6 g, 24 mmol) in methanol (50 ml). The reaction mixture was stirred for 3 h at 20°-25° C., resulting in formation of a white solid. The reaction mixture was cooled to 10°-15° C. and filtered. The white solid was washed with water (3×15 ml) and methanol (3×10 ml). The solid was dried at 30°-35° C. under vacuum. (7.63 g, 99.4% yield). The melting range of the crystals was 191°-193° C. Washed salt with water (50 ml×2) followed by methanol (120 ml) to yield a product with a melting range of 195°-198° C. Elemental Analysis (C34H38N8 O8S3) calcd: C, 52.16; H, 4.89; N, 14.31; S, 12.26. found: C, 52.06; H, 4.89; N, 14.01; S, 12.27.

reactant | cefonicid | 9.8 mmol, 5.76 g | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC4=NN=NN4CS(=O)(=O)O)C(=O)O)O | C18H18N6O8S3
reactant | N,N-dibenzylethylene diamine diacetate | 24 mmol, 8.6 g | C(C)(=O)O.C(C)(=O)O.C(C1=CC=CC=C1)N(CCN)CC1=CC=CC=C1
solvent | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | N,N'-Dibenzylethylene diamine | 99.4% yield | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
